*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :1005M(0402)/B(-25to85[deg])/1.00e+00[uF]/10[V]
* Murata P/N :GRM155B31A105ME01
* Property : C = 1.00e+00[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 100[Hz]-6[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GRM155B31A105ME01 Port1 Port2
C01 Port1 N01 7.15e-07
R01 Port1 N01 5.00e+07
L02 N01 N02 1.16e-10
R03 N02 N03 1.18e-02
C04 N03 N04 5.08e-05
R04 N03 N04 2.39e+01
C05 N04 N05 4.78e-05
R05 N04 N05 4.07e+00
C06 N05 N06 4.33e-05
R06 N05 N06 5.80e-01
C07 N06 N07 2.98e-05
R07 N06 N07 7.93e-02
C08 N07 N08 2.45e-05
R08 N07 N08 7.89e-03
L09 N08 N09 3.67e-11
R09 N08 N09 1.63e-01
L10 N09 N10 1.11e-10
R10 N09 N10 3.28e-02
C11 N10 N11 9.08e-07
L11 N10 N11 4.32e-11
R11 N10 N11 6.14e-03
C12 N11 Port2 2.17e-12
L12 N11 Port2 9.29e-11
R12 N11 Port2 2.30e+01
.ENDS GRM155B31A105ME01
